US07868188B2
N-[4-Methyl-5-(2-phenylsulfonylaminopyrimidin-5-yl)-1,3-thiazol-2-yl]acetamide
Benzenesulfonyl chloride (0.192 mL) was added to a stirred mixture of N-[5-(2-aminopyrimidin-5-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (195 mg) and pyridine (10 mL) and the reaction mixture was heated to reflux for 18 hours. Additional benzenesulfonyl chloride (0.384 mL) was added and the mixture was heated to reflux for 2 hours. The reaction mixture was evaporated. A 7M methanolic ammonia solution (10 mL) was added to the residue and the mixture was stirred at room temperature for 1 hour. The resultant mixture was evaporated and the residue was purified by preparative HPLC. There was thus obtained the title compound (55 mg); 1H NMR Spectrum: (DMSOd6) 2.13 (s, 3H), 2.27 (s, 3H), 7.61 (m, 3H), 8.02 (m, 2H), 8.60 (s, 2H), 12.00 (br s, 1H), 12.20 (s, 1H); Mass Spectrum: M+H+ 390.

reactant | Benzenesulfonyl chloride | 0.192 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-[5-(2-aminopyrimidin-5-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 195 mg | NC1=NC=C(C=N1)C1=C(N=C(S1)NC(C)=O)C | C10H11N5OS
reactant | benzenesulfonyl chloride | 0.384 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-Methyl-5-(2-phenylsulfonylaminopyrimidin-5-yl)-1,3-thiazol-2-yl]acetamide | 55 mg | CC=1N=C(SC1C=1C=NC(=NC1)NS(=O)(=O)C1=CC=CC=C1)NC(C)=O | C16H15N5O3S2
